US08486967B2
h) [8-(4-Fluoro-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine
To a solution of 8-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (60 mg, 0.258 mmol) and 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-one (76 mg, 0.387 mmol) in dry dichloroethane (3 mL) was added tetraisopropyl-orthotitanate (236 μL, 0.775 mmol) under an argon atmosphere and heated to 85° C. for 12 hours. The reaction mixture was cooled to room temperature, sodium borohydride (20 mg, 0.517 mmol) and ethanol (1.5 mL) were added and stirred at room temperature for 3 hour and at 50° C. for 30 minutes. The reaction mixture was cooled to room temperature and evaporated. An aqueous solution of Na2CO3 (2M) was added to the residue. The aqueous phase was extracted with ethyl acetate, the combined organic phases were dried over sodium sulfate, the solvent was evaporated and the residue purified by silica gel chromatography using dichloromethane/methanol (with 10% ammonia) as eluent. The title compound was obtained as a white solid (28.8 mg, 27%).

reactant | 8-(4-fluoro-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.258 mmol, 60 mg | FC1=CC=C(C=C1)C1C=2N(CCC1)N=C(N2)N | C12H13FN4
reactant | 1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-one | 0.387 mmol, 76 mg | CC1=NSC(=N1)N1CCC(CC1)=O | C8H11N3OS
reactant | sodium borohydride | 0.517 mmol, 20 mg | [BH4-].[Na+]
reactant | ethanol | 1.5 mL | C(C)O | C2H6O
solvent | dichloroethane | 3 mL | ClC(C)Cl | C2H4Cl2
product | [8-(4-Fluoro-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[1-(3-methyl-[1,2,4]thiadiazol-5-yl)-piperidin-4-yl]-amine | FC1=CC=C(C=C1)C1C=2N(CCC1)N=C(N2)NC2CCN(CC2)C2=NC(=NS2)C | C20H24FN7S
